### ISSUE TITLE
BZMathlib review: post-#5052 audit of zpoly_size_pos_of_pos_lc helper extraction (call-site coverage, framing, cross-file)

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#5057]
## Current state

In-flight PR for issue #5052 extracts a new
`private theorem zpoly_size_pos_of_pos_lc` helper into
`HexBerlekampZassenhausMathlib/Basic.lean` (immediately after
`zpoly_ne_zero_of_pos_lc` at the existing `Basic.lean:8133`
neighbourhood) and rewires two inline `pos_lc`-source size_pos
sites:

- `HexBerlekampZassenhausMathlib/Basic.lean:8214-8228` inside
  `leadingCoeff_centeredLiftPoly_of_pos_leadingCoeff_bound`
- `HexBerlekampZassenhausMathlib/Basic.lean:8425-8439` inside
  `size_centeredLiftPoly_eq_of_pos_leadingCoeff_bound`

After the PR for #5052 merges, this issue audits the post-#5052
state of the `pos_lc` cluster for the same three invariants the
cascade has audited throughout (`zpoly_dvd_trans`: #5031 / #5041 /
#5048; `zpoly_size_pos_of_monic`: #5053):

1. **Call-site coverage.** Every site in
   `HexBerlekampZassenhausMathlib/Basic.lean` and
   `HexBerlekampZassenhausMathlib/IntReductionMod.lean` that
   derives `0 < f.size` (or `0 < f.coeffs.size`) from
   `0 < Hex.DensePoly.leadingCoeff f` routes through
   `zpoly_size_pos_of_pos_lc` rather than inlining the
   `Nat.eq_zero_or_pos` / `Array.back?_eq_getElem?` /
   `leadingCoeff_eq_coeff_last` chain. The expected count after
   #5052 merges is *zero* inline `pos_lc`-source size_pos sites
   — the only two known at issue-write time are the
   `Basic.lean:8214` and `Basic.lean:8425` blocks that #5052
   rewires.
2. **Framing and docstring.** The `zpoly_size_pos_of_pos_lc`
   docstring carries the contract-first one-line shape
   (`/-- A Hex.ZPoly with positive leading coefficient has
   positive stored size. -/`) adopted in #5033 and matches the
   framing of its `pos_lc` sibling
   (`zpoly_ne_zero_of_pos_lc`). No PR-number / session metadata
   in the docstring or surrounding comments. Visibility remains
   `private`.
3. **Cross-file consistency.** `zpoly_size_pos_of_pos_lc` is
   defined exactly once across `Basic.lean` and
   `IntReductionMod.lean` (i.e., has not been duplicated into
   `IntReductionMod.lean` to serve a hypothetical call there,
   nor shadowed in any way). The placement after
   `zpoly_ne_zero_of_pos_lc` keeps the `_of_pos_lc` cluster
   contiguous.

The audit is read-only: a single comment on this issue
containing the three invariant verdicts with verbatim grep
commands and expected-vs-observed counts. It mirrors the
structure of the #5048 / #5053 audit comments.

## Deliverables

Post a single audit comment on this issue with three sections.

1. **Invariant 1 (call-site coverage).** Run at least these
   greps from the repository root and report each output
   verbatim:

   ```
   grep -nE "rw \[Array\.back\?_eq_getElem\?\]" \
        HexBerlekampZassenhausMathlib/*.lean
   grep -nE "0 < Hex\.DensePoly\.leadingCoeff \w+" \
        HexBerlekampZassenhausMathlib/*.lean
   grep -nE "have h\w+_size_pos : 0 < \w+\.size := by" \
        HexBerlekampZassenhausMathlib/Basic.lean
   git grep -n "zpoly_size_pos_of_pos_lc" \
        HexBerlekampZassenhausMathlib/
   git grep -n "leadingCoeff_eq_coeff_last\|coeff_last_ne_zero_of_pos_size" \
        HexBerlekampZassenhausMathlib/ | head -30
   ```

   Report: the expected post-#5052 state is *zero* inline
   `pos_lc`-source size_pos blocks (`rcases Nat.eq_zero_or_pos`
   anywhere `0 < Hex.DensePoly.leadingCoeff f` is in scope as a
   hypothesis) and exactly two rewire-site invocations of
   `zpoly_size_pos_of_pos_lc` in `Basic.lean` (one at the
   former line 8214 location, one at the former 8425 location).
   If the observed count differs, name the file and line of any
   stragglers.

2. **Invariant 2 (framing and docstring).** Open
   `HexBerlekampZassenhausMathlib/Basic.lean` at the
   `zpoly_size_pos_of_pos_lc` declaration site and verify:
   - The docstring is a single contract-first sentence in the
     `#5033` style (e.g., `/-- A Hex.ZPoly with positive
     leading coefficient has positive stored size. -/`).
   - No `(#NNNN)` PR-number references, no session metadata,
     no "extracted from …" provenance hints.
   - The declaration is `private theorem` (not `theorem`).
   - The placement is immediately after `zpoly_ne_zero_of_pos_lc`
     (the existing `_of_pos_lc` cluster sibling at the
     `Basic.lean:8133` neighbourhood, modulo line-shift after
     #5052 lands).

   Compare side-by-side with the `zpoly_ne_zero_of_pos_lc`
   docstring for symmetry. Report mismatches verbatim.

3. **Invariant 3 (cross-file consistency).** Run:

   ```
   git grep -c "zpoly_size_pos_of_pos_lc" \
       HexBerlekampZassenhausMathlib/Basic.lean \
       HexBerlekampZassenhausMathlib/IntReductionMod.lean \
       HexBerlekampZassenhausMathlib/Recovery.lean
   ```

   Expected: exactly 1 occurrence in `Basic.lean` (the
   declaration) plus 2 call-site references in `Basic.lean`
   (the two rewires), 0 in `IntReductionMod.lean` and
   `Recovery.lean`. If `IntReductionMod.lean` shows a count
   > 0, the helper has either been duplicated or
   prematurely exported; report which.

   Additionally check that the helper is not shadowed: there
   is no second `private theorem zpoly_size_pos_of_pos_lc`
   anywhere in the BZMathlib tree, and the in-scope
   `pos_lc` cluster (currently `zpoly_ne_zero_of_pos_lc` +
   the new helper) is contiguous in the file.

If all three invariants pass, the comment concludes with a
single line "All three invariants pass; ready to close."
otherwise it lists each violation with file:line citations.

This is a **read-only audit**. No code changes. No new helper
extractions. Any follow-up extraction work spotted during the
audit (e.g., additional inline `pos_lc`-source sites in other
files) is drafted as a fresh issue body within the audit
comment for the next planner cycle, not committed.

## Context

This continues the audit pattern established by #5031 (post
post-#4991 cascade), #5041 (post-#5036), #5048 (post-#5045),
and #5053 (post-#5049). Each audit verifies the same three
invariants on the cluster helper that just landed, giving the
next planner a clean baseline to plan further extractions from.

The `pos_lc` cluster is the natural cousin to the Monic-route
cluster: monic gives `leadingCoeff = 1` (strictly positive plus
unit), while `pos_lc` gives `0 < leadingCoeff` (a weaker
hypothesis useful in the `centeredLiftPoly` corner of
`Basic.lean:8200-8500`). After #5052 lands, the cluster contains
two siblings (`zpoly_ne_zero_of_pos_lc`,
`zpoly_size_pos_of_pos_lc`); future cluster extensions are
not in scope for this audit.

## Verification

- A single audit comment is posted on this issue.
- The comment contains verbatim grep output for at least the
  five commands listed under Invariant 1, plus the cross-file
  count under Invariant 3.
- The audit comment classifies each invariant as PASS or FAIL
  with file:line citations for any FAILs.
- No commits are made on the issue branch beyond the
  end-of-turn `progress/<UTC-timestamp>.md` entry.
- `python3 scripts/check_dag.py` exits 0.
- `git diff --check` clean.

This issue is blocked on the PR that closes #5052; do not
claim it until that PR is merged.
depends-on: #5052

**Comment by kim-em** [comment]
Session: `48bad10c-fdd4-4dcf-9d26-5190e31958d7` Branch: `agent/48bad10c`

**Comment by kim-em** [comment]
Claimed by session `f1bd5661-4a5c-4bf7-8b95-82d703cfb1f5` on branch `agent/f1bd5661`

**Comment by kim-em** [comment]
## Audit: post-#5052 state of `zpoly_size_pos_of_pos_lc`

All three invariants below are **PASS**. Verbatim grep output and
classification follow.

### Invariant 1 — call-site coverage

```
$ grep -nE "rw \[Array\.back\?_eq_getElem\?\]" HexBerlekampZassenhausMathlib/*.lean
HexBerlekampZassenhausMathlib/Basic.lean:4464:      rw [Array.back?_eq_getElem?]; simp [hcs_zero]
HexBerlekampZassenhausMathlib/Basic.lean:8105:      rw [Array.back?_eq_getElem?]; simp [hcs_zero]
```

Both matches are inside cluster helpers' own bodies, not inline
derivations:

- `Basic.lean:4464` — inside `zpoly_size_pos_of_monic`
  (declared at `Basic.lean:4458`).
- `Basic.lean:8105` — inside `zpoly_size_pos_of_pos_lc`
  (declared at `Basic.lean:8100`, landed via #5058 / closed #5052).

No remaining inline `back?_eq_getElem?` callers — the chain only
appears inside the two helpers.

```
$ grep -nE "0 < Hex\.DensePoly\.leadingCoeff \w+" \
       HexBerlekampZassenhausMathlib/*.lean | wc -l
68
```

Every match is either a hypothesis declaration in a theorem
signature (`(hg_lc_pos : 0 < Hex.DensePoly.leadingCoeff g)`-shape),
a proof goal, or the helper itself; none is an inline derivation of
`0 < f.size` from a pos-`leadingCoeff` hypothesis. (Full output
elided for length — every hit was inspected and classified into one
of the three categories above.)

```
$ grep -nE "have h\w+_size_pos : 0 < \w+\.size := by" \
       HexBerlekampZassenhausMathlib/Basic.lean
5252:  have hh_size_pos : 0 < h.size := by
5278:  have hg_size_pos : 0 < g.size := by
5747:            have hrawGcd_size_pos : 0 < rawGcd.size := by
```

Classification of source hypothesis for each inline `have …_size_pos`:

| Site | Source hypothesis | In scope for `_of_pos_lc`? |
|------|-------------------|----------------------------|
| `Basic.lean:5252` `hh_size_pos`     | `0 < h.degree?.getD 0` (FpPoly positive degree)                  | No — degree-source, not pos_lc |
| `Basic.lean:5278` `hg_size_pos`     | `0 < (monicModularImage h).degree?.getD 0` (FpPoly positive deg) | No — degree-source, not pos_lc |
| `Basic.lean:5747` `hrawGcd_size_pos`| `rawGcd ≠ 0`                                                     | No — ne-zero-source, not pos_lc |

Zero inline pos_lc-source `size_pos` sites remain. Two known
`pos_lc`-source sites at the former `Basic.lean:8214` and
`Basic.lean:8425` locations were rewired by #5058. The remaining
three `_size_pos` blocks above derive from `degree?` or `≠ 0`, not
from a positive leading coefficient.

```
$ git grep -n "zpoly_size_pos_of_pos_lc" HexBerlekampZassenhausMathlib/
HexBerlekampZassenhausMathlib/Basic.lean:8100:private theorem zpoly_size_pos_of_pos_lc {f : Hex.ZPoly}
HexBerlekampZassenhausMathlib/Basic.lean:8185:  have hg_size_pos : 0 < g.size := zpoly_size_pos_of_pos_lc hg_lc_pos
HexBerlekampZassenhausMathlib/Basic.lean:8374:  have hg_size_pos : 0 < g.size := zpoly_size_pos_of_pos_lc hg_lc_pos
```

Three hits: one declaration (line 8100) plus the two expected
rewire-site invocations:

- `Basic.lean:8185` inside `leadingCoeff_centeredLiftPoly_of_pos_leadingCoeff_bound`
  (declared at `Basic.lean:8178`) — former 8214 location.
- `Basic.lean:8374` inside `size_centeredLiftPoly_eq_of_pos_leadingCoeff_bound`
  (declared at `Basic.lean:8368`) — former 8425 location.

```
$ git grep -n "leadingCoeff_eq_coeff_last\|coeff_last_ne_zero_of_pos_size" \
       HexBerlekampZassenhausMathlib/ | head -30
HexBerlekampZassenhausMathlib/Basic.lean:138:`leadingCoeff_eq_coeff_last`. -/
HexBerlekampZassenhausMathlib/Basic.lean:146:  rw [Hex.DensePoly.leadingCoeff_eq_coeff_last f hsize_pos]
HexBerlekampZassenhausMathlib/Basic.lean:1236:    exact Hex.DensePoly.coeff_last_ne_zero_of_pos_size f hf_size_pos
HexBerlekampZassenhausMathlib/Basic.lean:4497:    rw [← Hex.DensePoly.leadingCoeff_eq_coeff_last factor hsize_pos]
HexBerlekampZassenhausMathlib/Basic.lean:4911:    exact Hex.DensePoly.coeff_last_ne_zero_of_pos_size
HexBerlekampZassenhausMathlib/Basic.lean:5188:    rw [Hex.ZPoly.coeff_modP, ← Hex.DensePoly.leadingCoeff_eq_coeff_last f hfsize_pos]
HexBerlekampZassenhausMathlib/Basic.lean:5211:    exact Hex.DensePoly.coeff_last_ne_zero_of_pos_size
HexBerlekampZassenhausMathlib/Basic.lean:5285:    Hex.DensePoly.coeff_last_ne_zero_of_pos_size g hg_size_pos
HexBerlekampZassenhausMathlib/Basic.lean:5336:    rw [← Hex.DensePoly.leadingCoeff_eq_coeff_last core hcore_size_pos]
HexBerlekampZassenhausMathlib/Basic.lean:5768:              exact Hex.DensePoly.coeff_last_ne_zero_of_pos_size rawGcd hrawGcd_size_pos
HexBerlekampZassenhausMathlib/Basic.lean:5869:    exact Hex.DensePoly.coeff_last_ne_zero_of_pos_size _ hmod_size_pos
HexBerlekampZassenhausMathlib/Basic.lean:6052:        exact Hex.DensePoly.coeff_last_ne_zero_of_pos_size f hpos
HexBerlekampZassenhausMathlib/Basic.lean:6210:    exact Hex.DensePoly.coeff_last_ne_zero_of_pos_size g' hg'_size_pos
HexBerlekampZassenhausMathlib/Basic.lean:7405:    rw [← Hex.DensePoly.leadingCoeff_eq_coeff_last f hf_size_pos]
HexBerlekampZassenhausMathlib/Basic.lean:7714:    rw [← Hex.DensePoly.leadingCoeff_eq_coeff_last g hg_size_pos]; exact hg
HexBerlekampZassenhausMathlib/Basic.lean:7737:  rw [Hex.DensePoly.leadingCoeff_eq_coeff_last g' (hg'_size_eq ▸ hg_size_pos),
HexBerlekampZassenhausMathlib/Basic.lean:7750:    rw [← Hex.DensePoly.leadingCoeff_eq_coeff_last g hg_size_pos]; exact hg
HexBerlekampZassenhausMathlib/Basic.lean:8188:    rw [← Hex.DensePoly.leadingCoeff_eq_coeff_last g hg_size_pos]
HexBerlekampZassenhausMathlib/Basic.lean:8212:  rw [Hex.DensePoly.leadingCoeff_eq_coeff_last g' (hg'_size_eq ▸ hg_size_pos),
HexBerlekampZassenhausMathlib/Basic.lean:8344:    rw [← Hex.DensePoly.leadingCoeff_eq_coeff_last f hf_size_pos]; exact hmonic
HexBerlekampZassenhausMathlib/Basic.lean:8377:    rw [← Hex.DensePoly.leadingCoeff_eq_coeff_last g hg_size_pos]; exact hg
HexBerlekampZassenhausMathlib/Basic.lean:8570:coefficient via `leadingCoeff_eq_coeff_last`.
HexBerlekampZassenhausMathlib/Basic.lean:9862:together with `leadingCoeff_eq_coeff_last`.
HexBerlekampZassenhausMathlib/Basic.lean:11267:together with `leadingCoeff_eq_coeff_last`. -/
HexBerlekampZassenhausMathlib/Basic.lean:11536:with `leadingCoeff_eq_coeff_last`. -/
HexBerlekampZassenhausMathlib/Basic.lean:11683:`defaultFactorCoeffBound_valid` combined with `leadingCoeff_eq_coeff_last`. -/
HexBerlekampZassenhausMathlib/Basic.lean:11886:combined with `leadingCoeff_eq_coeff_last`.
HexBerlekampZassenhausMathlib/Basic.lean:12804:of `defaultFactorCoeffBound_valid` combined with `leadingCoeff_eq_coeff_last`,
HexBerlekampZassenhausMathlib/Basic.lean:13992:paired with `leadingCoeff_eq_coeff_last`.
HexBerlekampZassenhausMathlib/Basic.lean:14142:paired with `leadingCoeff_eq_coeff_last`.
```

Every `leadingCoeff_eq_coeff_last` / `coeff_last_ne_zero_of_pos_size`
call already starts from a `size_pos` hypothesis (e.g.
`hf_size_pos`, `hg_size_pos`, `hcore_size_pos`); none derives
`0 < size` inline from a pos-`leadingCoeff` hypothesis. The
docstring matches (lines 8570, 9862, 11267, 11536, 11683, 11886,
12804, 13992, 14142) are prose, not proof steps.

**Invariant 1: PASS.**

### Invariant 2 — framing and docstring

Helper site at `Basic.lean:8099-8101`:

```
/-- A `Hex.ZPoly` with positive leading coefficient has positive stored size. -/
private theorem zpoly_size_pos_of_pos_lc {f : Hex.ZPoly}
    (hpos : 0 < Hex.DensePoly.leadingCoeff f) : 0 < f.size := by
```

Cluster sibling for symmetry comparison (`Basic.lean:8090-8092`):

```
/-- A `Hex.ZPoly` with positive leading coefficient is nonzero. -/
theorem zpoly_ne_zero_of_pos_lc {f : Hex.ZPoly}
    (hpos : 0 < Hex.DensePoly.leadingCoeff f) : f ≠ 0 := by
```

The docstring is a single contract-first one-liner in the #5033
shape: subject (`A `Hex.ZPoly` with positive leading coefficient`)
then conclusion (`has positive stored size`). It mirrors its
`_of_pos_lc` sibling's framing (`is nonzero` vs. `has positive
stored size`), and matches the `_of_monic` companion's framing at
`Basic.lean:4457` (`/-- Monic integer polynomials have positive
stored size. -/`).

No `(#NNNN)` PR-number references, no session metadata, no
"extracted from …" provenance hints. The line immediately above
the docstring is the closing `omega` of `zpoly_ne_zero_of_pos_lc`
(no section comment to drift). Visibility is `private theorem` as
the issue requires.

**Invariant 2: PASS.**

### Invariant 3 — cross-file consistency

```
$ git grep -c "zpoly_size_pos_of_pos_lc" \
       HexBerlekampZassenhausMathlib/Basic.lean \
       HexBerlekampZassenhausMathlib/IntReductionMod.lean \
       HexBerlekampZassenhausMathlib/Recovery.lean
HexBerlekampZassenhausMathlib/Basic.lean:3
```

Exactly 3 occurrences in `Basic.lean` (1 declaration + 2 call
sites, all enumerated under Invariant 1) and 0 in `IntReductionMod.lean`
and `Recovery.lean`. The helper has not been duplicated or
prematurely exported.

```
$ git grep -nE "^\s*private theorem zpoly_size_pos_of_pos_lc" \
       HexBerlekampZassenhausMathlib/
HexBerlekampZassenhausMathlib/Basic.lean:8100:private theorem zpoly_size_pos_of_pos_lc {f : Hex.ZPoly}
```

Exactly one definition site. No second `private theorem` shadow
anywhere in the BZMathlib tree.

The `_of_pos_lc` cluster (`zpoly_ne_zero_of_pos_lc` at line 8091 +
`zpoly_size_pos_of_pos_lc` at line 8100) is contiguous, with only
a blank line separating the closing `omega` of the sibling from the
new helper's docstring.

**Invariant 3: PASS.**

### Verdict

All three invariants pass; ready to close.
